US08536203B2
A mixture of 2-(trifluoromethyl)pyridine-3-carbothioamide (0.227 g, 1.10 mmol) and 1-[3,4-bis(benzyloxy)-5-nitrophenyl]-2-bromoethanone (0.50 g, 1.10 mmol) were refluxed overnight in absolute ethanol (5 mL). After cooling to room temperature, the reaction mixture was poured onto water (50 mL). The resulting precipitate was filtered off, washed with water (25 mL) and dried. Recrystallisation from dichloromethane/isopropanol afforded 4-(3,4-bis(benzyloxy)-5-nitrophenyl)-2-(2-(trifluoromethyl)pyridin-3-yl)thiazole, 0.539 g (87%).

reactant | 2-(trifluoromethyl)pyridine-3-carbothioamide | 1.10 mmol, 0.227 g | FC(C1=NC=CC=C1C(N)=S)(F)F | C7H5F3N2S
reactant | 1-[3,4-bis(benzyloxy)-5-nitrophenyl]-2-bromoethanone | 1.10 mmol, 0.50 g | C(C1=CC=CC=C1)OC=1C=C(C=C(C1OCC1=CC=CC=C1)[N+](=O)[O-])C(CBr)=O | C22H18BrNO5
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 4-(3,4-bis(benzyloxy)-5-nitrophenyl)-2-(2-(trifluoromethyl)pyridin-3-yl)thiazole | C(C1=CC=CC=C1)OC=1C=C(C=C(C1OCC1=CC=CC=C1)[N+](=O)[O-])C=1N=C(SC1)C=1C(=NC=CC1)C(F)(F)F | C29H20F3N3O4S
